US04188390
Catechol (180 g.) was added in portions to stirred sulfuric acid (138.5 ml.) so that the reaction temperature remained below 25° C. After addition was complete, the semi-solid mixture was heated at 45° C. for 60 minutes then cooled to room temperature and poured into ice-water (700 ml.). The solution was neutralized with solid barium carbonate, the barium sulfate collected, the filtrate acidified to pH 1 with concentrated sulfuric acid then refiltered. The filtrate was evaporated to leave crude 3,4-dihydroxybenzenesulfonic acid (182.40 g.) which was used without purification.

reactant | Catechol | 180 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | sulfuric acid | 138.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | barium carbonate | C([O-])([O-])=O.[Ba+2]
product | 3,4-dihydroxybenzenesulfonic acid | 182.40 g | OC=1C=C(C=CC1O)S(=O)(=O)O | C6H6O5S
